US06936608B2
b) 7-(4-Fluoro-3-methoxyphenyl)-3-trifluoromethylimidazo[1,2-b][1,2,4]triazine
A mixture of 2-(4-fluoro-3-methoxyphenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane (0.637 g, 2.528 mmol), 7-bromo-3-trifluoromethylimidazo[1,2-b][1,2,4]triazine (0.5 g, 1.873 mmol) and saturated aqueous NaHCO3 (10 ml) in 1,2-dimethoxyethane (25 ml) was degassed by evacuation and refilling with nitrogen three times. Tetrakis(triphenylphosphine)palladium(0) (0.169 g, 0.078 mmol) was added and the mixture was stirred under nitrogen at 95° C. for 17 h. After allowing to cool to ambient temperature, the mixture was diluted with ethyl acetate then filtered through glass fibre paper. The combined filtrates were partitioned between water (100 ml) and ethyl acetate (100 ml). The organic extracts were dried (MgSO4) and evaporated in vacuo. The residue was purified by flash chromatography (silica gel, 25% EtOAc/isohexane), to give 275 mg (47%) of the title compound: 1H NMR (360 MHz, CDCl3) δ 4.00 (3H, s), 7.26 (1H, dd, J 10.9, 8.4 Hz), 7.61-7.64 (1H, m), 7.76 (1H, dd, J 2.1, 8.1 Hz), 8.58 (1H, s), 8.81 (1H, s).

reactant | 2-(4-fluoro-3-methoxyphenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 2.528 mmol, 0.637 g | FC1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)OC | C13H18BFO3
reactant | 7-bromo-3-trifluoromethylimidazo[1,2-b][1,2,4]triazine | 1.873 mmol, 0.5 g | BrC1=CN=C2N1N=CC(=N2)C(F)(F)F | C6H2BrF3N4
reactant | NaHCO3 | 10 ml | C(=O)(O)[O-].[Na+]
solvent | 1,2-dimethoxyethane | 25 ml | COCCOC | C4H10O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.078 mmol, 0.169 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 7-(4-Fluoro-3-methoxyphenyl)-3-trifluoromethylimidazo[1,2-b][1,2,4]triazine | 275 mg, 47% | FC1=C(C=C(C=C1)C1=CN=C2N1N=CC(=N2)C(F)(F)F)OC | C13H8F4N4O
